US06291455B1
A mixture of 4chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (107 mg, 0.4 mmol), (prepared as described for the starting material in Example 14), and 2-fluoro4-methylaniline (50 mg, 0.4 mmol) in isopropanol (7 ml) was heated at reflux for 2 hours. The mixture was allowed to cool to ambient temperature, the precipitated solid was collected by filtration, washed with isopropanol add ether and dried to give 4-(2-fluoro-4-methylanilino)-6-methoxy-7(2-methoxyethoxy)quinazoline hydrochloride (95 mg, 60%) as an off-white solid.

reactant | 4chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.4 mmol, 107 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 2-fluoro4-methylaniline | 0.4 mmol, 50 mg | FC1=C(N)C=CC(=C1)C | C7H8FN
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 4-(2-fluoro-4-methylanilino)-6-methoxy-7(2-methoxyethoxy)quinazoline hydrochloride | 95 mg, 60% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=CC(=C1)C | InChI=1S/C19H20FN3O3.ClH/c1-12-4-5-15(14(20)8-12)23-19-13-9-17(25-3)18(26-7-6-24-2)10-16(13)21-11-22-19;/h4-5,8-11H,6-7H2,1-3H3,(H,21,22,23);1H
